US05294631
A suspension of 2,5-dibromo-3-nitrobenzoic acid (10.76 g, 0.0331 mol) in toluene (100 mL) was placed under argon, treated with 2-chlorobenzylamine (14.06 g, 0.0993 mol) and the mixture was brought to reflux. A clear, red solution resulted and the solution was refluxed for 24 hours, cooled, poured into 5% sodium hydroxide solution (600 mL) and ether (100 mL). The insoluble material was filtered off, the layers separated and the aqueous phase was added to the insoluble material and acidified with 10% hydrochloric acid solution. The separated crystalline product was collected, washed with water and the solid was crystallized from a large volume of methanol to provide 7.85 g (61.5%) of the yellow crystalline 5-bromo-2-[(2-chlorophenyl)methyl]amino-3-nitrobenzoic acid; mp 159°-161° C.

reactant | 2,5-dibromo-3-nitrobenzoic acid | 0.0331 mol, 10.76 g | BrC1=C(C(=O)O)C=C(C=C1[N+](=O)[O-])Br | C7H3Br2NO4
reactant | 2-chlorobenzylamine | 0.0993 mol, 14.06 g | ClC1=C(CN)C=CC=C1 | C7H8ClN
reactant | sodium hydroxide | 600 mL | [OH-].[Na+]
reactant | ether | 100 mL | CCOCC | C4H10O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 5-bromo-2-[(2-chlorophenyl)methyl]amino-3-nitrobenzoic acid | 7.85 g, 61.5% | BrC=1C=C(C(=C(C(=O)O)C1)NCC1=C(C=CC=C1)Cl)[N+](=O)[O-] | C14H10BrClN2O4
